US06583150B1
4) Synthesis of 4-Acetamidoquinoline-5,8-dione
22 g (40.1 mmol) of cerium ammonium nitrate are added, at 0° C., to a solution of 5 g (20.3 mmol) of 4-acetamido-5,8-dimethoxyquinoline in a CH3CN/H2O mixture (50 mL/50 mL). The reaction medium is stirred for 1 h 45 min and is then basified with 500 mL of saturated NaHCO3 solution. 200 mL of H2O are added and the mixture is extracted with CHCl3 (3 times 500 mL) After drying over MgSO4 and evaporating off the solvent, 3.4 g of expected product are obtained in the form of a brown-yellow powder, which is used rapidly for the following step since the product is unstable.

reactant | cerium ammonium nitrate | 40.1 mmol, 22 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | 4-acetamido-5,8-dimethoxyquinoline | 20.3 mmol, 5 g | C(C)(=O)NC1=CC=NC2=C(C=CC(=C12)OC)OC | C13H14N2O3
reactant | CH3CN H2O | 50 mL | CC#N.O
reactant | NaHCO3 | 500 mL | C(=O)(O)[O-].[Na+]
solvent | H2O | 200 mL | O | H2O
product | 4-Acetamidoquinoline-5,8-dione | C(C)(=O)NC1=CC=NC=2C(C=CC(C12)=O)=O | C11H8N2O3
